US05654326
Using the procedure described in Example 1, Part E, 1-[(4-fluorophenyl)methyl]-4-hydroxy-2-methyl-1H-indole (881 mg, 3.45 mmol) was treated with 138 mg (3.45 mmol) of 60% NaH/mineral oil and then 0.33 mL (3.45 mmol) of methyl bromoacetate. The product was purified by chromatography over silica gel eluting with 20% EtOAc/hexane, to give 914 mg (81% yield) of [[1-[(4-fluorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester, mp, 92°-98° C.

reactant | 1-[(4-fluorophenyl)methyl]-4-hydroxy-2-methyl-1H-indole | 3.45 mmol, 881 mg | FC1=CC=C(C=C1)CN1C(=CC2=C(C=CC=C12)O)C | C16H14FNO
reactant | NaH | 3.45 mmol, 138 mg | [H-].[Na+]
reactant | methyl bromoacetate | 3.45 mmol, 0.33 mL | BrCC(=O)OC | C3H5BrO2
product | [[1-[(4-fluorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 914 mg, 81% yield | COC(COC1=C2C=C(N(C2=CC=C1)CC1=CC=C(C=C1)F)C)=O | C19H18FNO3
